US05561101
b) 7-chloro-3-chloro-(4,6-dimethoxy-2-pyrimidinyl)phthalide (Table A, cpd. no. 21)
A mixture of 0.7 g of 7-chloro-3-hydroxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide, 30 ml of CCl4, 2 ml of SOCl2 and 4 drops of DMF are refluxed at 60° for 11/2 hrs. The mixture is then cooled, excess SOCl2 and CCl4 removed on a rotovaporator. The residue is diluted with 20 ml of CH2Cl2 and added to a stirred mixture of 10 ml of methanol and 2 ml of diethylamine. After 21/2 hrs the mixture is stripped on a rotovaporator to remove excess CH2Cl2 and methanol and the residue partitioned between CH2Cl2 (50 ml) and water (50 ml). The organic phase is separated, concentrated and the gummy residue flash chromatographed over silica gel using 80/20 hexane/ethyl acetate (500 ml), 60/40 hexane/ethyl acetate (500 ml) (28 fractions×50 ml). Fractions 18 to 20 yielded title compound a) and fractions 11 to 16 the compound b).

reactant | 7-chloro-3-hydroxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 0.7 g | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)O | C14H11ClN2O5
reactant | SOCl2 | 2 ml | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-chloro-3-chloro-(4,6-dimethoxy-2-pyrimidinyl)phthalide | ClC=1C=CC=C2C(OC(=O)C12)(Cl)C1=NC(=CC(=N1)OC)OC | C14H10Cl2N2O4
